US04246268
When in the procedure of Example 9, 4-bromo-1-naphthyl 4-piperidyl ketone is substituted for 6-chloro-2-naphthyl 4-piperidyl ketone hydrochloride, α(4-bromo-1-naphthyl)-4-piperidinemethanol is obtained.

reactant | 4-bromo-1-naphthyl 4-piperidyl ketone | N1CCC(CC1)C(=O)C1=CC=C(C2=CC=CC=C12)Br | C16H16BrNO
reactant | 6-chloro-2-naphthyl 4-piperidyl ketone hydrochloride | Cl.N1CCC(CC1)C(=O)C1=CC2=CC=C(C=C2C=C1)Cl
product | α(4-bromo-1-naphthyl)-4-piperidinemethanol | BrC1=CC=C(C2=CC=CC=C12)C(O)C1CCNCC1 | C16H18BrNO
